US06713474B2
A mixture of 4-chloro-7-(1,4-dioxaspiro[4.5]dec-8-yl)-5-iodo-7H-pyrrolo[2,3-d]pyrimidine (3.0 g, 7.15 mmol) in ethylene glycol dimethyl ether (100 mL) was treated with 4-(benzyloxy)phenylboronic acid (1.79 g, 7.87 mmol), tetrakis(triphenylphosphine)palladium (0.496 g, 0.429 mmol), and a solution of sodium carbonate (1.83 g, 17.16 mmol) in water (50 mL). A precipitate formed after 20 minutes. Reaction was stirred for 5 hours at 80° C. under a nitrogen atmosphere. The mixture was allowed to cool to room temperature and the organic solvent was removed under reduced pressure. The product was partitioned between the aqueous sodium carbonate layer and ethyl acetate. The aqueous layer was further extracted with ethyl acetate three times. The organic layers were combined, washed with water and brine, dried over magnesium sulfate, and partially concentrated until a precipitate formed. The solid was filtered, washed with ethyl acetate, and dried under a high vacuum. Yielded 2.06 g (61%) of 5-[4-(benzyloxy)phenyl]-4-chloro-7-(1,4-dioxaspiro[4.5]dec-8-yl)-7H-pyrrolo[2,3-d]pyrimidine. 1H NMR (DMSO-d6, 400 MHz) δ 8.64(s, 1H), 7.88(s, 1H), 7.52-7.33(m, 7H), 7.08-7.05(d, 2H, J=12 Hz), 5.15(s, 2H), 4.82-4.78 (m, 1H), 3.95-3.89(m, 4H), 2.21-2.13(m, 2H), 1.98-1.96(m, 2H), 1.85-1.75(m, 4H); Waters 2690 Alliance HPLC (Symmetry Shield RP18 3.5 μm, 2.1×50 mm; 5%-95% acetonitrile-0.1 M ammonium acetate over 15 min, 0.5 mL/min) Rt 8.356 min.

reactant | 4-chloro-7-(1,4-dioxaspiro[4.5]dec-8-yl)-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 7.15 mmol, 3.0 g | ClC=1C2=C(N=CN1)N(C=C2I)C2CCC1(OCCO1)CC2 | C14H15ClIN3O2
reactant | 4-(benzyloxy)phenylboronic acid | 7.87 mmol, 1.79 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | sodium carbonate | 17.16 mmol, 1.83 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 100 mL | COCCOC | C4H10O2
solvent | water | 50 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.429 mmol, 0.496 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[4-(benzyloxy)phenyl]-4-chloro-7-(1,4-dioxaspiro[4.5]dec-8-yl)-7H-pyrrolo[2,3-d]pyrimidine | 2.06 g, 61% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)Cl)C2CCC1(OCCO1)CC2 | C27H26ClN3O3
